US06300342B1
(4) 1-[3-(4-cyano-phenyl)-propionyl]-6-(N-ethoxycarbonylmethyl-2,2-diphenyl-ethylamino)-1,2,3,4-tetrahydro-quinoline
Prepared from 1-[3-(4-cyano-phenyl)-propionyl]-6-(2,2-diphenyl-ethylamino)-1,2,3,4-tetrahydro-quinoline (see Example 14(4)) and ethyl iodoacetate

reactant | 1-[3-(4-cyano-phenyl)-propionyl]-6-(2,2-diphenyl-ethylamino)-1,2,3,4-tetrahydro-quinoline | C(#N)C1=CC=C(C=C1)CCC(=O)N1CCCC2=CC(=CC=C12)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C33H31N3O
reactant | ethyl iodoacetate | ICC(=O)OCC | C4H7IO2
product | 1-[3-(4-cyano-phenyl)-propionyl]-6-(N-ethoxycarbonylmethyl-2,2-diphenyl-ethylamino)-1,2,3,4-tetrahydro-quinoline | C(#N)C1=CC=C(C=C1)CCC(=O)N1CCCC2=CC(=CC=C12)N(CC(=O)OCC)CC(C1=CC=CC=C1)C1=CC=CC=C1 | C37H37N3O3
